US08808679B2
Synthesis of Auristatin F-hydroxypropylamide
Auristatin F (150 mg, 0.201 mmol), HATU (153.0 mg, 0.402 mmol), and diisopropylethylamine (108 μL, 0.603 mmol) were taken up in DMF (5 mL) and 3-aminopropan-1-ol (45.9 μL, 0.603 mmol) was added. The mixture was stirred at 23° C. for 45 minutes at which time LCMS analysis showed complete disappearance of the starting material. Reduction of the volume to 1.4 mL under high vacuum followed by purification via preparative HPLC (10-90 solvent B gradient over 20 minutes eluting with 0.1% TFA/Water, 0.1% TFA/CH3CN) afforded the title compound as white solid (109 mg, 68% yield).

reactant | Auristatin F | 0.201 mmol, 150 mg | CC[C@H](C)[C@@H]([C@@H](CC(=O)N1CCC[C@H]1[C@@H]([C@@H](C)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)OC)OC)N(C)C(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)N(C)C | C40H67N5O8
reactant | HATU | 0.402 mmol, 153.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.603 mmol, 108 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-aminopropan-1-ol | 0.603 mmol, 45.9 μL | NCCCO | C3H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Auristatin F hydroxypropylamide | 109 mg, 68% yield | CC[C@H](C)[C@@H]([C@@H](CC(=O)N1CCC[C@H]1[C@@H]([C@@H](C)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)OC)OC)N(C)C(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)N(C)C.OCCC[NH-] | InChI=1S/C40H67N5O8.C3H8NO/c1-13-26(6)35(44(10)39(49)33(24(2)3)42-38(48)34(25(4)5)43(8)9)31(52-11)23-32(46)45-21-17-20-30(45)36(53-12)27(7)37(47)41-29(40(50)51)22-28-18-15-14-16-19-28;4-2-1-3-5/h14-16,18-19,24-27,29-31,33-36H,13,17,20-23H2,1-12H3,(H,41,47)(H,42,48)(H,50,51);4-5H,1-3H2/q;-1/t26-,27+,29-,30-,31+,33-,34-,35-,36+;/m0./s1
